US04209521
1-(4-Fluorobenzoyl)-3-(1-[indol-3-ylmethyl]piperid-4-yl)urea
Formaldehyde (0.4 cm3, 40% aqueous solution) was added to a stirred solution of indole (0.6 g, 0.005 mol) and 4-(4-fluorobenzoylureido)piperidine (1.33 g, 0.005 mol) in acetic acid (3 cm3). The reaction was allowed to stand for 5 hours then diluted with water (50 cm3). The turbid solution was basified by addition of ammonia and the precipitated solid collected by filtration, washed with water and ether to give 1.7 g (85%) of the title compound as the free base. The base was suspended in ethanol (10 cm3) and acidified with ethanolic hydrogen chloride. After stirring at room temperature for 0.5 hours and 0° C. for 0.5 hours the suspension was filtered to remove the hydrochloride. The hydrochloride was then dissolved in hot methanol acidified further with ethanolic hydrogen chloride and cooled to give the crystalline hydrochloride (1.4 g, 65.2%) double m.p. 210° C. and 260° C.

reactant | Formaldehyde | 0.4 cm3 | C=O | CH2O
reactant | indole | 0.005 mol, 0.6 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | 4-(4-fluorobenzoylureido)piperidine | 0.005 mol, 1.33 g | FC1=CC=C(C(=O)NC(NC2CCNCC2)=O)C=C1 | C13H16FN3O2
reactant | ammonia | N | H3N
solvent | acetic acid | 3 cm3 | C(C)(=O)O | C2H4O2
solvent | water | 50 cm3 | O | H2O
product | 1-(4-Fluorobenzoyl)-3-(1-[indol-3-ylmethyl]piperid-4-yl)urea | 1.7 g, 85% | FC1=CC=C(C(=O)NC(=O)NC2CCN(CC2)CC2=CNC3=CC=CC=C23)C=C1 | C22H23FN4O2
